US07696210B2
4-(2,2,2-Trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzaldehyde
2-(4-Dimethoxymethyl-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol (350 mg, 1.1 mmol) was dissolved in DCM (5 ml). A 50% aqueous TFA (5 ml) was added and the solution was allowed to stir for 2h. The solvent was removed under vacuum, and the reaction mixture was partitioned between ethyl acetate and a 1M sodium carbonate solution. The organic layer was washed with carbonate two additional times, and then it was washed with brine. It was dried over MgSO4, and the solvent was removed to yield the title product (300 mg (100%), 1.1 mmol) as a white solid. 1H NMR (DMSO-d6) δ=10.1 (s, 1H), 9.05 (s, 1H), 8.12 (d, J=8.5 Hz, 2H), 7.96 (d, J=8.2 Hz, 2H).

reactant | 2-(4-Dimethoxymethyl-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 1.1 mmol, 350 mg | COC(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)OC | C12H12F6O3
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,2,2-Trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzaldehyde | 1.1 mmol, 300 mg, 100% | FC(C(C(F)(F)F)(O)C1=CC=C(C=O)C=C1)(F)F | C10H6F6O2
